US07399759B2
5-Fluoro-2-(2-pyridyl)-4H-1,3-benzothiazine-4-one
A mixture of 6-fluoro-2-mercaptobenzoic acid (5.00 g, 29.0 mmol), 2-cyanopyridine (3.05 g, 29.3 mmol) and pyridine (30.0 ml) was refluxed at 135° C. for 48 hrs as described in Example 9. The reaction mixture was concentrated. The residue was subjected to a silica gel column chromatography and eluted with hexane-ethyl acetate (2:1, v/v). The resultant product was recrystallized from ethanol to give the titled compound (0.11 g, 1%).

reactant | 6-fluoro-2-mercaptobenzoic acid | 29.0 mmol, 5.00 g | FC1=CC=CC(=C1C(=O)O)S | C7H5FO2S
reactant | 2-cyanopyridine | 29.3 mmol, 3.05 g | C(#N)C1=NC=CC=C1 | C6H4N2
solvent | pyridine | 30.0 ml | N1=CC=CC=C1 | C5H5N
product | 5-Fluoro-2-(2-pyridyl)-4H-1,3-benzothiazine-4-one | 0.11 g, 1% | FC1=CC=CC2=C1C(N=C(S2)C2=NC=CC=C2)=O | C13H7FN2OS
